US07872000B2
A mixture of 2-mercapto-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine-4-ol (1 g; 4.76 mmol) and 10 g of Raney nickel in 40 mL of abs. EtOH was refluxed for 5 hours and filtered. The filtrate was evaporated to give 5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine-4-ol as a pale-grey solid (0.66 g; 78% yield).

reactant | 2-mercapto-5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine-4-ol | 4.76 mmol, 1 g | SC=1N=C(C2=C(N1)CCCCCC2)O | C10H14N2OS
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | EtOH | CCO | C2H6O
product | 5,6,7,8,9,10-hexahydrocycloocta[d]-pyrimidine-4-ol | 78% yield | N1=CN=C(C2=C1CCCCCC2)O | C10H14N2O
